US08975265B2
To a solution of {1-[4-(3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (50 mg, 0.11 mmol) in MeOH (0.45 mL) and CH2Cl2 (0.75 mL) was added a 4 molar solution of HCl in dioxane (0.57 mL, 2.2 mmol, 20 5equiv). The resulting solution was stirred at room temperature for 12 h, then was concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera; 10 g SNAP cartridge: 100% CH2Cl2 4.0 min., gradient to 95% CH2Cl2/5% MeOH 9.5 min., gradient to 90% CH2Cl2/10% MeOH 6.1 min.) to give 1-[4-(3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutylamine (18 mg, 47%):

reactant | {1-[4-(3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.11 mmol, 50 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1C1=CC=CC=C1)=O | C28H29N3O2
reactant | HCl | Cl | ClH
reactant | dioxane | 2.2 mmol, 0.57 mL, 5equiv | O1CCOCC1 | C4H8O2
solvent | MeOH | 0.45 mL | CO | CH4O
solvent | CH2Cl2 | 0.75 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutylamine | 18 mg, 47% | C1(=CC=CC=C1)C1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)C2(CCC2)N | C23H21N3
